US05219871
Preparation of 2,2-diphenyl-5-[N-(3,4-methylenedioxybenzyl)-N-methylamino]pentanamide
A mixture containing 2,2-diphenyl-5-methylaminopentanamide (0.29 g-see Preparation 3), 3,4-methylenedioxybenzyl chloride (0.18 g-commercially available), sodium bicarbonate (0.1 g) and acetonitrile (20 ml) was heated under reflux for 3 hours. The mixture was partitioned between dichloromethane and 10% aqueous sodium carbonate, the layers separated and the dichloromethane layer dried (MgSO4). The solution was concentrated in vacuo and the residue purified by column chromatography on silica, eluting with dichloromethane containing methanol (0% up to 6%). The product-containing fractions were combined and concentrated in vacuo to give the title compound as an oil, yield 0.22 g.

reactant | 2,2-diphenyl-5-methylaminopentanamide | 0.29 g | C1(=CC=CC=C1)C(C(=O)N)(CCCNC)C1=CC=CC=C1 | C18H22N2O
reactant | 3,4-methylenedioxybenzyl chloride | C1OC=2C=C(CCl)C=CC2O1 | C8H7ClO2
reactant | sodium bicarbonate | 0.1 g | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 2,2-diphenyl-5-[N-(3,4-methylenedioxybenzyl)-N-methylamino]pentanamide | C1(=CC=CC=C1)C(C(=O)N)(CCCN(C)CC1=CC2=C(C=C1)OCO2)C2=CC=CC=C2 | C26H28N2O3
